US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline (360 mg, 1.00 mm ol), (prepared as described for the starting material in Example 152), potassium carbonate (215 mg, 1.56 mmol) and 5-hydroxy-2-methylindole (162 mg, 1.10 mmol) in DMF (8.0 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The solvent was removed by evaporation and the residue was purified by silica column chromatography eluting with methanol (2.5 to 5%) in dichloromethane. The resulting solid was recrystallised from ethyl acetate, filtered and washed with diethyl ether to give 6-methoxy-4-(2-methylindol-5-yloxy)-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline (166 mg, 35%).

reactant | 4-chloro-6-methoxy-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline | 360 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN(S(=O)(=O)C)C | C14H18ClN3O4S
reactant | potassium carbonate | 1.56 mmol, 215 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-2-methylindole | 1.10 mmol, 162 mg | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(2-methylindol-5-yloxy)-7-(3-(N-methyl-N-methylsulphonylamino)propoxy)quinazoline | 166 mg, 35% | COC=1C=C2C(=NC=NC2=CC1OCCCN(S(=O)(=O)C)C)OC=1C=C2C=C(NC2=CC1)C | C23H26N4O5S
